US07528147B2
2-[5-Methoxy-6-(2-methoxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 89a, but using 0.102 g of 2-[5-methoxy-6-(2-methoxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 0.80 ml of 5N potassium hydroxide. After purification by flash-pack chromatography (silica, 92.5/7.5 by volume dichloromethane/methanol as eluents, argon), 0.033 g of 2-[5-methoxy-6-(2-methoxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | 2-[5-methoxy-6-(2-methoxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.102 g | COC=1C=C2C(=CN(C2=CC1OCCOC)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H27N3O5S
reactant | potassium hydroxide | 5N, 0.80 ml | [OH-].[K+]
product | 2-[5-methoxy-6-(2-methoxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.033 g | COC=1C=C2C(=CN(C2=CC1OCCOC)C)C1=CC=2C(=NC=CC2)N1 | C20H21N3O3
